US04252956
2-methyl-3-ethylthiocarbonyl-5-oxo-1,4-dihydroindeno-(1,2-b)pyridine
2.98 g (0.02 mole) of S-ethyl ester of β-aminothiocrotonic acid, 2.92 g (0.02 mole) of indane-1,3-dione and 0.7 g of paraform are heated at reflux in 30 ml of toluene for 20 minutes under vigorous stirring in a flask provided with Dean-Stark-packing. There is distilled-off about 10 ml of the solvent; after cooling to a temperature of 0° C. 1.42 g (25%) a red substance is isolated which melts at 240° C. (from acetic acid).

reactant | β-aminothiocrotonic acid | N\C(=C/C(=S)O)\C | C4H7NOS
reactant | indane-1,3-dione | 0.02 mole, 2.92 g | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-3-ethylthiocarbonyl-5-oxo-1,4-dihydroindeno-(1,2-b)pyridine | CC1=C(CC2=C(N1)C1=CC=CC=C1C2=O)C(=S)CC | C16H15NOS
